Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[C:7]([H:8])([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3]#[C:4][O:5][H:6],-0.494275451071
[C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-6.24678029788
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1].[O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],3.6972078993
[C:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([O:3][C:4]([H:5])[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],4.38892338379
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:9][H:10])[O:11][H:12].[H:8]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([O:9][H:10])[O:11][H:12],-4.1334991782
[O:1]=[C:2]1[O:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]1[H:11]>>[O:1]=[C:2]([O:3])/[C:10](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])[H:11],0.21791806743
[H:4].[O:1]=[C:2]([H:3])[C:5]#[C:6][O:7][C:8][H:9]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:7][C:8][H:9],-1.10937675566
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][O:4][H:5],5.53161183
[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([C:6]([H:7])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:5],3.3156806655299995
[H:12].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[H:12],-4.27055443446
[C:6]([H:7])[O:8][C:9][H:10].[O:1]=[C:2]=[C:3]([H:4])[H:5]>>[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[O:8][C:9][H:10],-2.3990815370900003
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])/[C:8]([H:9])=[C:10](\[H:11])[O:13][H:14]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[O:13][H:14],-3.383114922
[O:1]=[C:2]([C:3][H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[C:2](#[C:3][H:4])[O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[O:1],3.34330701885
[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.61500660809
[C:13]([H:14])[H:15].[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-5.15918799
[H:1][C:2](=[C:3]([H:4])[H:5])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15].[H:6]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15],-1.93150034876
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])=[C:10][H:11]>>[H:5].[O:1]=[C:2]([C:3][H:4])[C:6]([H:7])[C:8]([H:9])=[C:10][H:11],4.87606609282
[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.56158471471
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:13],4.56792976845
[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[H:1][C:2]#[C:3][O:5][C:6][C:7]([H:8])([H:9])[H:10].[H:4],2.43746448988
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[H:4],1.72573015569
[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1]>>[H:1][C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-3.9636793432
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][C:2]#[C:4][C:5]([H:6])([H:7])[C:8]([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:3],1.98016313083
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]#[C:8][H:9]>>[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6][C:7]#[C:8][H:9],-0.4632738515199999
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3][O:4][H:5],4.94588679
[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[H:10],-3.93590496809
[C:9]([H:10])([H:11])=[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[H:8]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17],-1.1117782475700002
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[O:10].[H:11]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-1.51848322372
